US07157488B2
N-(2-(3-Chlorophenyl)ethyl)-3-propoxybenzylamine
Add methanesulfonic acid (70 uL) to a solution of N-t-Butoxycarbonyl-N-2-(3-chlorophenyl)ethyl-3-propoxybenzylamine in dichloromethane (4 mL) and agitate the mixture for 3 hours at room temperature. Add 10% aqueous Na2CO3 (2 mL), separate the layers, and concentrate the organic layer in a nitrogen stream to give a residue. Dissolve the residue in 4 mL of 5% acetic acid in methanol and pass through a 1 gm SCX column, eluting with 1 M ammonia in methanol to give the title compound: MS (ES+): m/e (M+1). HPLC (10–90% water/acetonitrile over 7.5 min, Tr=4.490 min).

reactant | methanesulfonic acid | 70 uL | CS(=O)(=O)O | CH4O3S
reactant | N-t-Butoxycarbonyl-N-2-(3-chlorophenyl)ethyl-3-propoxybenzylamine | C(C)(C)(C)OC(=O)N(CCC1=CC(=CC=C1)Cl)CC1=CC(=CC=C1)OCCC | C23H30ClNO3
reactant | Na2CO3 | 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | N-(2-(3-Chlorophenyl)ethyl)-3-propoxybenzylamine | ClC=1C=C(C=CC1)CCNCC1=CC(=CC=C1)OCCC | C18H22ClNO
